US08703768B2
6-Cyclopropyl-N-[1-methyl-3-(2-methyl-pyrrolidine-1-carbonyl)-1H-pyrazol-4-yl]-3-(pyrimidin-5-ylamino)-pyridine-2-carboximidic acid
According to the general method described above (step 5), reaction of 2-methylpyrrolidine with 4-{[6-cyclopropyl-3-(pyrimidin-5-ylamino)-pyridine-2-carbonyl]-amino}-1-methyl-1H-pyrazole-3-carboxylic acid methyl ester provided the title compound (19%) as sticky yellow solid.

reactant | 2-methylpyrrolidine | CC1NCCC1 | C5H11N
reactant | 4-{[6-cyclopropyl-3-(pyrimidin-5-ylamino)-pyridine-2-carbonyl]-amino}-1-methyl-1H-pyrazole-3-carboxylic acid methyl ester | COC(=O)C1=NN(C=C1NC(=O)C1=NC(=CC=C1NC=1C=NC=NC1)C1CC1)C | C19H19N7O3
product | 6-Cyclopropyl-N-[1-methyl-3-(2-methyl-pyrrolidine-1-carbonyl)-1H-pyrazol-4-yl]-3-(pyrimidin-5-ylamino)-pyridine-2-carboximidic acid | 19% | C1(CC1)C1=CC=C(C(=N1)C(O)=NC=1C(=NN(C1)C)C(=O)N1C(CCC1)C)NC=1C=NC=NC1 | C23H26N8O2
